US04335126
In a suitable reaction vessel fitted with an attachment for the azeotropic separation of water, 18.4 g (0.1 mole) of 3,4,5-trimethoxyphenol are brought to the boil with 37 g (0.4 mole) of epichlorohydrin, followed by the dropwise addition over a period of 30 minutes of 10 g (0.1 mole) of 40% sodium hydroxide, the water being simultaneously removed azeotropically from the circuit. After the sodium hydroxide has been added, the mixture is left to react for 1 hour at boiling temperature, subsequently diluted with approximately 100 ml of toluene and the NaCl precipitated is filtered off. The filtrate is fractionated first under normal pressure and then in vacuo. The 3,4,5-trimethoxyphenoxy glycidyl ether is obtained as a colorless oil at b.p.1.0 =175°-180° C. Yield 19.2 g, corresponding to 80% of the theoretical, based on trimethoxyphenol.

reactant | water | O | H2O
reactant | 3,4,5-trimethoxyphenol | 0.1 mole, 18.4 g | COC=1C=C(C=C(C1OC)OC)O | C9H12O4
reactant | epichlorohydrin | 0.4 mole, 37 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 0.1 mole, 10 g | [OH-].[Na+]
solvent | toluene | approximately 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4,5-trimethoxyphenoxy glycidyl ether | C(C1CO1)OOC1=CC(=C(C(=C1)OC)OC)OC | C12H16O6
